US07101892B2
Methanesulfonic acid 3-benzenesulfonyl-3-methylbutyl ester
A solution of 3-benzenesulfonyl-3-methyl-butan-1-ol (2.17 g, 9.5 mmol), triethylamine (2.0 ml, 14.25 mmol), methanesulphonyl chloride (0.9 ml, 11.78 mmol) and 4-N,N-dimethylaminopyridine (12 mg, 0.01 mmol) was stirred at 0° C. for 45 min. After quenching with satd. NaHCO3, the mixture was extracted into dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated to give the title product (3.0 g).

reactant | 3-benzenesulfonyl-3-methyl-butan-1-ol | 9.5 mmol, 2.17 g | C1(=CC=CC=C1)S(=O)(=O)C(CCO)(C)C | C11H16O3S
reactant | triethylamine | 14.25 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 11.78 mmol, 0.9 ml | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 3-benzenesulfonyl-3-methylbutyl ester | 3.0 g | C1(=CC=CC=C1)S(=O)(=O)C(CCOS(=O)(=O)C)(C)C | C12H18O5S2
